US07186714B2
In a similar manner as described in Example 3 from N-cyclopentyl-4-[6,8-dibromo-2-(4-fluorophenyl)imidazo[1,2-a]pyridin-3-yl]-2-pyrimidinamine (100 mg, 0.19 mmol) and morpholine at 100° C. for 3 days was obtained N-cyclopentyl-4-[2-(4-fluorophenyl)-6,8-di(4-morpholinyl)imidazo[1,2-a]pyridin-3-yl]-2-pyrimidinamine (25 mg, 24%) as a yellowish solid. 1H NMR (CDCl3) δ 8.66 (s, 1H), 8.11 (d, 1H), 7.66 (q, 2H), 7.10 (t, 2H), 6.49 (d, 1H), 6.43 (d, 1H), 5.24 (d, 1H), 4.45 (m, 1H), 4.03 (m, 4H), 3.94 (m, 4H), 3.60 (m, 4H), 3.13 (m, 4H), 2.0–2.1 (m, 2H), 1.4–1.9 (m, 6H); 19F NMR (CDCl3) δ −114.1; MS m/z 545 (M+1).

reactant | N-cyclopentyl-4-[6,8-dibromo-2-(4-fluorophenyl)imidazo[1,2-a]pyridin-3-yl]-2-pyrimidinamine | 0.19 mmol, 100 mg | C1(CCCC1)NC1=NC=CC(=N1)C1=C(N=C2N1C=C(C=C2Br)Br)C2=CC=C(C=C2)F | C22H18Br2FN5
reactant | morpholine | N1CCOCC1 | C4H9NO
product | N-cyclopentyl-4-[2-(4-fluorophenyl)-6,8-di(4-morpholinyl)imidazo[1,2-a]pyridin-3-yl]-2-pyrimidinamine | 25 mg, 24% | C1(CCCC1)NC1=NC=CC(=N1)C1=C(N=C2N1C=C(C=C2N2CCOCC2)N2CCOCC2)C2=CC=C(C=C2)F | C30H34FN7O2
